US07799923B2
To a solution of 81 mg (0.3 mmol) of 5-chloro-7-cyanomethyl-1H-indole-2-carboxylic acid ethyl ester in THF/EtOH/H2O (5 ml) at RT was added 39 mg of LiOH.H2O. The reaction mixture was stirred at 40° C. for three hours and then acidified with aqueous HCl 1M. The product was extracted with EtOAc and concentrated under vacuo to afford 71 mg (98%) of 5-chloro-7-cyanomethyl-1H-indole-2-carboxylic acid as a white solid. ES-MS m/e (%): 232.9 (M−H+).

reactant | 5-chloro-7-cyanomethyl-1H-indole-2-carboxylic acid ethyl ester | 0.3 mmol, 81 mg | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CC#N | C13H11ClN2O2
reactant | LiOH.H2O | 39 mg | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF EtOH H2O | 5 ml | C1CCOC1.CCO.O
product | 5-chloro-7-cyanomethyl-1H-indole-2-carboxylic acid | 71 mg, 98% | ClC=1C=C2C=C(NC2=C(C1)CC#N)C(=O)O | C11H7ClN2O2
